US09062028B2
Step B. 1-(5-(1H-Tetrazol-5-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one
A solution of 1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinoline-5-carbonitrile (0.020 g, 0.057 mmol), dibutylstannanone (2.86 mg, 0.011 mmol) and TMS-N3 (0.030 mL, 0.230 mmol) in DME (0.3 mL) was stirred at 100° C. for 3 days, and then concentrated in vacuo. The resulting residue was purified by preparative HPLC (PHENOMENEX® Axia Luna column, 5μ, C18, 30×75 mm; 10 min gradient from 75% A:25% B to 0% A:100% B (A=90% H2O/10% MeCN+0.1% TFA); (B=90% MeCN/10% H2O+0.1% TFA); detection at 220 nm) to afford the title compound (18.7 mg, 82% yield) as an off-white solid. LCMS, [M+H]+=392.1.

reactant | 1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinoline-5-carbonitrile | 0.057 mmol, 0.020 g | CC1=C(OCCCC(=O)N2CCCC=3C(=CC=CC23)C#N)C=CC=C1C | C22H24N2O2
reactant | dibutylstannanone | 0.011 mmol, 2.86 mg | C(CCC)[Sn](=O)CCCC
reactant | TMS-N3 | 0.230 mmol, 0.030 mL | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | DME | 0.3 mL | COCCOC | C4H10O2
product | 1-(5-(1H-Tetrazol-5-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | 18.7 mg, 82% yield | N1N=NN=C1C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O | C22H25N5O2
